US05922203
4-aminobenzoic acid (Aldrich 99%) was reacted stoichiometrically with benzyl chloroformate (Aldrich 95%) in THF solvent in the presence of pyridine acid acceptor initially at 2-25° C. for 1 hour then refluxed 75° C. for 2 hours. After evaporation of solvent, washing the solids in water, filtering and drying, the resulting N-CBZ-protected product was obtained in 85% yield. This compound was first reacted with a stoichiometric quantity of 1,1'-carbonyl diimidazole at room temperature for 2 hours in DMF/THF solvent. A stoichiometric amount of ethyl-1-piperazine carboxylate (Lancaster 99%) in THF was then added to this mix, kept at room temperature for 1 hour, then refluxed at 80° C. for 8 hours. The reaction solution was evaporated to a solid residue, washed with water, filtered and finally dried to obtain the solid diprotected product in 90% yield. This solid was deprotected in excess 5N hydrobromic acid in acetic acid at 48° C. for 10 hours. After evaporation of acidic fluids, the solid residue was washed with acetone then ether, filtered and dried as the dihydrobromide salt. Dissolution of this salt in a stirred aqueous suspension of 2× equivalents of strong base anion exchange resin (Amberlite IRA-400-OH) followed by filtration and washing of resin, evaporation of filtrates and azeotropic drying in anhydrous ethanol then in 1,2-dichloroethane, gave dry 4-aminobenzoyl piperazine (4ABP) solid in 50% yield. 3ABP was prepared in the same manner as above but starting with 3-aminobenzoic acid.

reactant | 4-aminobenzoic acid | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 1,1'-carbonyl diimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethyl-1-piperazine carboxylate | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | hydrobromic acid | 5N | Br | BrH
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF THF | CN(C)C=O.C1CCOC1
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-aminobenzoyl piperazine | 50% yield | NC1=CC=C(C(=O)N2CCNCC2)C=C1 | C11H15N3O
